US07119156B2
To tert-butyl malonate was added, in THF, an equimolar amount of sodium hydroxide. To this mixture was added bromomethyl adamantyl ketone, and the mixture was stirred for 3 hours. The salt precipitated was filtered off, and the filtrate was concentrated to obtain di-tert-butyl 2-((1-adamantyl)carbonyl-methyl)malonate (ADTB).

reactant | tert-butyl malonate | C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | sodium hydroxide | [OH-].[Na+]
reactant | bromomethyl adamantyl ketone | C12(CC3CC(CC(C1)C3)C2)C(=O)CBr | C12H17BrO
solvent | THF | C1CCOC1 | C4H8O
product | di-tert-butyl 2-((1-adamantyl)carbonyl-methyl)malonate | C12(CC3CC(CC(C1)C3)C2)C(=O)CC(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C23H36O5
